US07989444B2
2-methyl-7-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine (0.15 mmol) and 3-[(3-chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole (0.18 mmol) and was obtained as a colourless slightly hygroscopic solid (24 mg).

reactant | 2-methyl-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5-h][3]benzazepine | 0.15 mmol | CC=1SC2=CC3=C(CCNCC3)C=C2N1 | C12H14N2S
reactant | 3-[(3-chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole | 0.18 mmol | ClCCCSC1=NN=C(N1C)C1=C(N=CO1)C | C10H13ClN4OS
product | 2-methyl-7-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]thiazolo[4,5h][3]benzazepine hydrochloride | Cl.CC=1SC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C(N=CO3)C)C=C2N1 | InChI=1S/C22H26N6OS2.ClH/c1-14-20(29-13-23-14)21-25-26-22(27(21)3)30-10-4-7-28-8-5-16-11-18-19(31-15(2)24-18)12-17(16)6-9-28;/h11-13H,4-10H2,1-3H3;1H
